US07091214B2
A solution of 1-(3-amino-8-bromo-2-chloroquinolin-4-ylamino)-2-methylpropan-2-ol (4.65 g, 14.4 mmol) and ethoxyacetyl chloride (1.9 mL, 15.8 mmol) in dichloromethane (72 mL) was stirred for one hour at ambient temperature. The solvent was removed under reduced pressure, and ethanol (43 mL), water (29 mL), and potassium carbonate (3.98 g, 28.8 mmol) were added. The reaction was stirred at 40° C. for 36 hours. The solvent was removed under reduce pressure, and the residue was diluted with water. The aqueous solution was extracted with chloroform, and the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 4.4 g of 1-(6-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as an orange solid.

reactant | 1-(3-amino-8-bromo-2-chloroquinolin-4-ylamino)-2-methylpropan-2-ol | 14.4 mmol, 4.65 g | NC=1C(=NC2=C(C=CC=C2C1NCC(C)(O)C)Br)Cl | C13H15BrClN3O
reactant | ethoxyacetyl chloride | 15.8 mmol, 1.9 mL | C(C)OCC(=O)Cl | C4H7ClO2
reactant | ethanol | 43 mL | C(C)O | C2H6O
reactant | potassium carbonate | 28.8 mmol, 3.98 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 72 mL | ClCCl | CH2Cl2
solvent | water | 29 mL | O | H2O
product | 1-(6-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 4.4 g | BrC1=CC=CC=2C3=C(C=NC12)N=C(N3CC(C)(O)C)COCC | C17H20BrN3O2
